US09035004B2
Synthesis of 5,10-Bis-dodecyloxy-2,7-bis-trimethylstannanyl-1,6-dithia-dicyclopenta[a,f]naphthalene (BB-3-Sn2)
5,10-Bis-dodecyloxy-1,6-dithia-dicyclopenta[a,f]naphthalene (BB-3, 0.366 g, 0.6 mmol) was added into a 50 mL flask. The system was vacuumed and backfilled with argon 3 times before 17 mL of anhydrous THF was injected. N-Butyllithium (0.6 mL, 2.5 M in hexane, 1.5 mmol) was added after the mixture was cooled to −78° C. A white precipitate was observed after the mixture was stirred at −78° C. for 30 minutes. Stirring was continued at room temperature for one more hour before the mixture was cooled down to −78° C. again. Trimethyltin chloride (0.5 g, 2.5 mmol) was added in portions and stirring was continued overnight at room temperature. Hexane (100 mL) was added and the organic layer was washed with 150 mL of water. The aqueous layer was extracted with 50 mL of hexane twice. The combined organic layer was dried over anhydrous Na2SO4. Removal of the solvent under vacuum yielded a white solid. The colorless crystalline product (0.48 g, ˜85.7% yield) was obtained after recrystallization from a hexane/iso-propanol mixture. 1H NMR (CDCl3, 500 MHz): δ 7.80 (s, 2H), δ 7.51 (s, 2H), δ 4.37 (t, 4H, J=6.5 Hz), δ 2.00 (m, 4H), δ 1.63 (m, 4H), δ 1.46 (m, 4H), δ 1.30 (m, 28H), δ 0.90 (t, 6H, J=7.0 Hz), δ 0.51 (m, 18H).

reactant | 5,10-Bis-dodecyloxy-1,6-dithia-dicyclopenta[a,f]naphthalene | 0.6 mmol, 0.366 g | C(CCCCCCCCCCC)OC=1C2=C(C=3C=C(C4=C(C3C1)C=CS4)OCCCCCCCCCCCC)C=CS2 | C38H56O2S2
reactant | THF | 17 mL | C1CCOC1 | C4H8O
reactant | N-Butyllithium | 1.5 mmol, 2.5 M, 0.6 mL | [Li+].CCC[CH2-]
reactant | Trimethyltin chloride | 2.5 mmol, 0.5 g | C[Sn](C)(C)Cl
solvent | Hexane | 100 mL | CCCCCC | C6H14
product | 5,10-Bis-dodecyloxy-2,7-bis-trimethylstannanyl-1,6-dithia-dicyclopenta[a,f]naphthalene | 0.48 g, ˜85.7% yield | C(CCCCCCCCCCC)OC=1C2=C(C=3C=C(C4=C(C3C1)C=C(S4)[Sn](C)(C)C)OCCCCCCCCCCCC)C=C(S2)[Sn](C)(C)C | InChI=1S/C38H54O2S2.6CH3.2Sn/c1-3-5-7-9-11-13-15-17-19-21-25-39-35-29-33-32-24-28-42-38(32)36(30-34(33)31-23-27-41-37(31)35)40-26-22-20-18-16-14-12-10-8-6-4-2;;;;;;;;/h23-24,29-30H,3-22,25-26H2,1-2H3;6*1H3;;
